US08252797B2
8-{1-[1-(4-Isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-7-methyl-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
A mixture of 8-{1-[1-(4-Isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione (0.030 g, 0.057 mmol), potassium carbonate (0.016 g, 0.115 mmol), methyl iodide (0.0039 ml, 0.0639 mmol) and DMF (1 ml) was heated at 50° C. for 20 hour. The mixture was cooled to room temperature and diluted with water (10 ml). The aqueous layer was extracted with ethyl acetate. The organic layer was washed with water and saturated brine solution, and dried over Na2SO4. The solvent was evaporated and the residue obtained was triturated with hexane to obtain the title compound (0.026 g, 84%).

reactant | 8-{1-[1-(4-Isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 0.057 mmol, 0.030 g | C(C)(C)C1=CC=C(C=C1)N1CC(CC1=O)CN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C28H35N7O3
reactant | potassium carbonate | 0.115 mmol, 0.016 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.0639 mmol, 0.0039 ml | CI | CH3I
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
product | 8-{1-[1-(4-Isopropyl-phenyl)-5-oxo-pyrrolidin-3-ylmethyl]-1H-pyrazol-4-yl}-7-methyl-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 0.026 g, 84% | C(C)(C)C1=CC=C(C=C1)N1CC(CC1=O)CN1N=CC(=C1)C1=NC=2N(C(N(C(C2N1C)=O)CCC)=O)CCC | C29H37N7O3
